MM14 (net025 net012 VDD VDD) pmos4
MM13 (net024 net012 VDD VDD) pmos4
MM3 (net75 VB1 net025 VDD) pmos4
MM2 (net012 VB1 net024 VDD) pmos4
MM7 (net11 net60 net14 net27) pmos4
MM6 (net16 VSS net14 net27) pmos4
MM5 (net14 VB2 VDD VDD) pmos4
MM12 (net29 net11 VSS VSS) nmos4
MM11 (net32 net16 VSS VSS) nmos4
MM10 (net33 net11 VSS VSS) nmos4
MM4 (net26 net16 VSS VSS) nmos4
MM1 (net75 net1003 net29 VSS) nmos4
MM0 (net012 net1003 net32 VSS) nmos4
MM9 (net11 net1003 net33 VSS) nmos4
MM8 (net16 net1003 net26 VSS) nmos4
MM13 (net9 net1003 VSS VSS) nmos4
MM15 (net1003 net1003 net9 VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB3 net1006 VDD VDD) pmos4
RR0 (net15 VSS) resistor
MM0 (VB3 VB3 VSS VSS) nmos4
MM2 (net1006 VB3 net15 VSS) nmos4
M23 (net63 VCLK2 VOUT1 VSS) nmos4
M22 (net60 VCLK3 net62 VSS) nmos4
M25 (net63 VCLK3 VSS VSS) nmos4
M24 (net62 VCLK2 VSS VSS) nmos4
M15 (VOUT1 net72 net68 VSS) nmos4
M14 (net72 VOUT1 net71 VSS) nmos4
M13 (net68 net75 net67 VSS) nmos4
M12 (net71 VSS net67 VSS) nmos4
M10 (net67 VCLK1 VSS VSS) nmos4
C2 (net60 net75) capacitor
C1 (net62 net63) capacitor
C0 (net60 VOUT1) capacitor
M21 (net71 VCLK1 VDD VDD) pmos4
M20 (net68 VCLK1 VDD VDD) pmos4
M19 (VOUT1 VCLK1 VDD VDD) pmos4
M18 (VOUT1 net72 VDD VDD) pmos4
M17 (net72 VOUT1 VDD VDD) pmos4
M16 (net72 VCLK1 VDD VDD) pmos4